US05650533
Sodium hydride (1.05 g of 80% powder) was suspended in THF and to this was added a solution of 2.2,2-trifluoroethanol (1.9 g) in THF, followed by a solution of 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid (4 g) in THF. The resultant mixture was stirred for 2 hours and then acidified with 2M HCl. The mixture was extracted with ether, washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness yielding 4-chloro-2-methylsulphonyl-3-(2,2,2-trifluoroethoxy)benzoic acid (5.26 g) as a whim solid, NMR (DMSO d6) 2.5(s,3H), 4.8(q,2H), 7.5(d, 1H), 8.0(d, 1H).

reactant | Sodium hydride | 1.05 g | [H-].[Na+]
reactant | 2.2,2-trifluoroethanol | 1.9 g | FC(CO)(F)F | C2H3F3O
reactant | 4-chloro-3-fluoro-2-methylsulphonylbenzoic acid | 4 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)F | C8H6ClFO4S
reactant | HCl | 2M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-chloro-2-methylsulphonyl-3-(2,2,2-trifluoroethoxy)benzoic acid | 5.26 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)OCC(F)(F)F | C10H8ClF3O5S
